US06821984B2
7-(2,4-Dichlorophenyl)-2-methyl-3-(1-propylbutoxy)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridine hydrochloride
Example 12b was prepared according to the procedure described in Example 12a, except that 7-(2-chloro-4,6-dimethylphenyl)-2-methyl-1,2,4,5,6,7-hexahydropyrazolo[3,4-b]pyridin-3-one was replaced by 7-(2,4-dichlorophenyl)-2-methyl-1,2,4,5,6,7-hexahydropyrazolo[3,4-b]pyridin-3-one.

reactant | 7-(2-chloro-4,6-dimethylphenyl)-2-methyl-1,2,4,5,6,7-hexahydropyrazolo[3,4-b]pyridin-3-one | ClC1=C(C(=CC(=C1)C)C)N1C2=C(CCC1)C(N(N2)C)=O | C15H18ClN3O
reactant | 7-(2,4-dichlorophenyl)-2-methyl-1,2,4,5,6,7-hexahydropyrazolo[3,4-b]pyridin-3-one | ClC1=C(C=CC(=C1)Cl)N1C2=C(CCC1)C(N(N2)C)=O | C13H13Cl2N3O
product | 7-(2,4-Dichlorophenyl)-2-methyl-3-(1-propylbutoxy)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridine hydrochloride | Cl.ClC1=C(C=CC(=C1)Cl)N1C=2C(CCC1)=C(N(N2)C)OC(CCC)CCC | InChI=1S/C20H27Cl2N3O.ClH/c1-4-7-15(8-5-2)26-20-16-9-6-12-25(19(16)23-24(20)3)18-11-10-14(21)13-17(18)22;/h10-11,13,15H,4-9,12H2,1-3H3;1H
